US08076348B2
A 0.6 ml portion of 4 M hydrogen chloride/ethyl acetate was added to 4.4 ml ethanol solution of 201 mg tert-butyl 4-(2-{[(diaminomethylene)amino]carbonyl}-9H-carbazol-9-yl)piperidine-1-carboxylate which had been synthesized in the same manner as in Example 1, followed by stirring overnight at room temperature. The thus precipitated-solid was collected by filtration and washed with EtOH to obtain 125 mg of N-(diaminomethylene)-9-piperidin-4-yl-9H-carbazole-2-carboxamide dihydrochloride as pale yellow solid.

reactant | hydrogen chloride ethyl acetate | 4 M | Cl.C(C)(=O)OCC
reactant | tert-butyl 4-(2-{[(diaminomethylene)amino]carbonyl}-9H-carbazol-9-yl)piperidine-1-carboxylate | 201 mg | NC(N)=NC(=O)C1=CC=2N(C3=CC=CC=C3C2C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C24H29N5O3
solvent | ethanol | 4.4 ml | C(C)O | C2H6O
product | N-(diaminomethylene)-9-piperidin-4-yl-9H-carbazole-2-carboxamide dihydrochloride | 125 mg | Cl.Cl.NC(=NC(=O)C1=CC=2N(C3=CC=CC=C3C2C=C1)C1CCNCC1)N | InChI=1S/C19H21N5O.2ClH/c20-19(21)23-18(25)12-5-6-15-14-3-1-2-4-16(14)24(17(15)11-12)13-7-9-22-10-8-13;;/h1-6,11,13,22H,7-10H2,(H4,20,21,23,25);2*1H
